US06121323
4,4'-Methylenebis(1-hydroxy-1-(1-ethylpropyl)-3-phenylurea)
A solution of 4,4'-methylenebis(phenylisocyanate) (1.5 g, 6.0 mmol) and tetrahydrofuran (75 ml) was charged with N-(1-ethylpropyl)hydroxylamine (1.5 g, 14.5 mmol) and maintained at ambient temperature for 16 hr. The solvent was removed in vacuo to provide the crude product as a white solid. Recrystallization from ethyl acetate.backslash.hexanes provided 1.0 g of the desired product as a white powder: MP: 196.0-198.0° C. (decomp); 1H NMR (300 MHz, DMSO): δ 9.16 (s, 2H), 8.78 (s, 2H), 7.50 (d, J=8.5 Hz, 4H), 7.05 (d, J=8.5 Hz, 4H), 3.96-3.87 (m 2H), 3.77 (s, 2H), 1.59-1.31 (m, 8H), 0.85-0.80 (t, J=7.3 Hz, 12H); 13C NMR (75 MHz, DMSO): δ 157.7, 137.4, 134.9, 128.2, 119.1, 59.6, 24.5, 11.0; IR (KBr): 3395, 3147, 2966, 2931, 2875, 1641, 1590, 1528, 1461, 1413, 1328, 1312, 1225, 1150, 815, 761 cm-1 ; MS (FAB): m/e 457.2804 (457.2815 calc'd for C25H37N4O4, M+H); Anal. calc'd for C25H36N4O4 : C, 65.76; H, 7.95; N, 12.27. Found: C, 65.53; H, 7.87; N, 12.11.

reactant | 4,4'-methylenebis(phenylisocyanate) | 6.0 mmol, 1.5 g | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
reactant | N-(1-ethylpropyl)hydroxylamine | 14.5 mmol, 1.5 g | C(C)C(CC)NO | C5H13NO
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 4,4'-Methylenebis(1-hydroxy-1-(1-ethylpropyl)-3-phenylurea) | 1.0 g | C(C1=CC=C(C=C1)NC(N(O)C(CC)CC)=O)C1=CC=C(C=C1)NC(N(C(CC)CC)O)=O | C25H36N4O4
